US04939138
To a suspension of 8.8 g (0.18 mole) of a 50% dispersion of sodium hydride in hexane was added 1 ml of ethanol followed by the addition, over a period of five minutes, of a solution of 30 g (0.2 mole) of 4-methoxyacetophenone in 50 ml of diethyl ether 50 ml of ethyl propionate was then added rapidly, and the solution was heated under reflux for three hours and then cooled. An additional 7 g of sodium hydride dispersion was added, the reaction was allowed to subside, and the mixture was then cooled and diluted with 500 ml of water with stirring. The solid which separated was collected by filtration, washed with water, then with diethyl ether and dried in a vacuum oven at 60° C. to give 18.3 g of 5-(4-methoxyphenyl)-3,5-pentanedione as the sodium salt.

reactant | sodium hydride | [H-].[Na+]
reactant | ethanol | 1 ml | C(C)O | C2H6O
reactant | 4-methoxyacetophenone | 0.2 mole, 30 g | CC(=O)C1=CC=C(C=C1)OC | C9H10O2
reactant | ethyl propionate | C(CC)(=O)OCC | C5H10O2
reactant | sodium hydride | 7 g | [H-].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | water | 500 ml | O | H2O
product | 5-(4-methoxyphenyl)-3,5-pentanedione | 18.3 g | COC1=CC=C(C=C1)C(CC(CC)=O)=O | C12H14O3
